US05089616
3-(2-Amino-4-thiazolyl)-L-alanine methyl ester dihydrochloride, 12 kg (43.8 mol), 13.8 kg of N-(4-morpholinylsulfonyl)-L-phenylalanine (European Published Patent Application 0399556), 6.0 kg of hydroxybenzotriazole (HOBT), and 110 L of dimethylformamide are charged into a 800 L reactor and cooled to 5° C. Triethylamine, 9.4 kg, is charged over 10 minutes and cooled to 5° C. A solution of 9.5 kg of dicyclohexylcarbodiimide in 350 L of ethyl acetate is charged into the reaction mixture over a 15 minute period at 5° C. The slurry is allowed to warm to room temperature and stirred overnight. The slurry is diluted with 424 L of ethyl acetate and filtered. The cake is washed with 50 L of ethyl acetate. The filtrate is washed with water (2×140 L) and saturated sodium bicarbonate solution (2×150 L). The solution is diluted with 193 L of isopropyl alcohol. After cooling to 5° C., anhydrous hydrogen chloride gas (3.2 kg) is added to precipitate the product. After isolation by filtration, the product is dried at 25° C. under vacuum to give 18 kg of N-(4-morpholinyl-sulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-L-alanine methyl ester monohydrochloride as a white solid, 99.6% pure by HPLC; mass spectrum (chemical ionization) 498 M+H.

reactant | 3-(2-Amino-4-thiazolyl)-L-alanine methyl ester dihydrochloride | Cl.Cl.COC([C@@H](N)CC=1N=C(SC1)N)=O
reactant | N-(4-morpholinylsulfonyl)-L-phenylalanine | 13.8 kg | N1(CCOCC1)S(=O)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C13H18N2O5S
reactant | hydroxybenzotriazole | 6.0 kg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 9.5 kg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 350 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 424 L | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 110 L | CN(C=O)C | C3H7NO
product | N-(4-morpholinyl-sulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-L-alanine methyl ester monohydrochloride | 18 kg | Cl.COC([C@@H](NC([C@@H](NS(=O)(=O)N1CCOCC1)CC1=CC=CC=C1)=O)CC=1N=C(SC1)N)=O | InChI=1S/C20H27N5O6S2.ClH/c1-30-19(27)17(12-15-13-32-20(21)22-15)23-18(26)16(11-14-5-3-2-4-6-14)24-33(28,29)25-7-9-31-10-8-25;/h2-6,13,16-17,24H,7-12H2,1H3,(H2,21,22)(H,23,26);1H/t16-,17-;/m0./s1
